US07642367B2
2-Fluoro-5-pyridin-2-yl-benzaldehyde
General Procedure G using 2-bromopyridin and 4-fluoro-3-formylbenzeneboronic acid gave the title compound as colourless crystals in 64% yield.

reactant | 2-bromopyridin | BrC1=NC=CC=C1 | C5H4BrN
reactant | 4-fluoro-3-formylbenzeneboronic acid | FC1=C(C=C(C=C1)B(O)O)C=O | C7H6BFO3
product | 2-Fluoro-5-pyridin-2-yl-benzaldehyde | 64% yield | FC1=C(C=O)C=C(C=C1)C1=NC=CC=C1 | C12H8FNO
